US04677115
Step D: 8-(2-methoxyethoxymethoxy)-5,6,7,8-tetrahydrothieno[3,2-b]-thiepin-2-sulfonamide-4,4-dioxide
A solution of OXONE® (28.9 g, 0.047 mole) in water (200 ml) was added to a stirred suspension of 8-(2-methoxyethoxymethoxy)-5,6,7,8-tetrahydrothieno[3,2-b]thiepin-2-sulfonamide (14.0 g, 0.040 mole) in methanol (250 ml) and the mixture was stirred at ambient temperature for 41 hours. Methanol was evaporated under reduced pressure and the aqueous suspension was extracted with ethyl acetate (3×250 ml). The combined extracts were washed twice with water, dried over sodium sulfate and evaporated under reduced pressure to give 16.62 g (theory 15.42 g) of solvated oily product which was used in the next step without further purification.

reactant | OXONE | OOS(=O)[O-].[K+]
reactant | 8-(2-methoxyethoxymethoxy)-5,6,7,8-tetrahydrothieno[3,2-b]thiepin-2-sulfonamide | 0.040 mole, 14.0 g | COCCOCOC1C2=C(SCCC1)C=C(S2)S(=O)(=O)N | C12H19NO5S3
solvent | water | 200 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 8-(2-methoxyethoxymethoxy)-5,6,7,8-tetrahydrothieno[3,2-b]-thiepin-2-sulfonamide-4,4-dioxide | COCCOCOC1C2=C(S(CCC1)(=O)=O)C=C(S2)S(=O)(=O)N | C12H19NO7S3
